US05993780
a. 5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(1,3-diacetoxyprop-2-yl)-2,4,6-triiodobenzamide
The alkylation of 5-(2,2-dimethyl-1,3-dioxolane-4-carboxamido)-3-acetoxymethyl-N-(1,3-diacetoxyprop-2-yl)-2,4,6-triiodobenzamide with 2-bromoethyl acetate was performed according to the procedure of Example 30a. The crude product was isolated in 83% yield.

reactant | 5-(2,2-dimethyl-1,3-dioxolane-4-carboxamido)-3-acetoxymethyl-N-(1,3-diacetoxyprop-2-yl)-2,4,6-triiodobenzamide | CC1(OCC(O1)C(=O)NC=1C(=C(C(=C(C(=O)NC(COC(C)=O)COC(C)=O)C1I)I)COC(C)=O)I)C | C23H27I3N2O10
reactant | 2-bromoethyl acetate | C(C)(=O)OCCBr | C4H7BrO2
product | 5-[N'-(2-Acetoxyethyl)-2,2-dimethyl-1,3-dioxolane-4-carboxamido]-3-acetoxymethyl-N-(1,3-diacetoxyprop-2-yl)-2,4,6-triiodobenzamide | 83% yield | C(C)(=O)OCCN(C(=O)C1OC(OC1)(C)C)C=1C(=C(C(=C(C(=O)NC(COC(C)=O)COC(C)=O)C1I)I)COC(C)=O)I | C27H33I3N2O12
